* G:\mine\ee18btech11049.asc
XU1 N001 Vout N003 N004 N002 LM741/NS
C1 N001 0 1.6n
R1 N001 0 10000
C2 P001 N001 1.6n
R2 N002 P001 10000
V1 0 N004 15
V2 N003 0 15
R3 Vout 0 5000
R4 N002 Vout 10000
D1 N002 Vout D
D2 Vout N002 D
.tran 0.001 .01 UIC
.include LM741.MOD
.control
run
plot V(vout)
wrdata ee18btech11049.dat V(Vout)
.end
